US05130119
(b) 4-[N-(2,4,6-Trifluorophenyl)sulfamoyl]-benzoic acid
6.22 g (18 mmol) of 4-[N-(2,4,6-trifluorophenyl)sulfamoyl]-benzoic acid methyl ester is dissolved in 50 ml of dioxane, 18 ml (32 mmol) of 2N NaOH is added and stirred for 3 hours at 50° C. The solution is then concentrated by evaporation to about 10 ml under reduced pressure, acidified with 2N hydrochloric acid and the resulting solid precipitate is suctioned off. The filter residue is dissolved in ethyl acetate, the solution is shaken out with water, dried on sodium sulfate, filtered and evaporated to dryness. 5.58 g (16.85 mmol)=76.9% of the theoretical yield is obtained as an amorphous solid.

reactant | 4-[N-(2,4,6-trifluorophenyl)sulfamoyl]-benzoic acid methyl ester | 18 mmol, 6.22 g | COC(C1=CC=C(C=C1)S(NC1=C(C=C(C=C1F)F)F)(=O)=O)=O | C14H10F3NO4S
reactant | NaOH | 32 mmol, 2N, 18 ml | [OH-].[Na+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-[N-(2,4,6-Trifluorophenyl)sulfamoyl]-benzoic acid | FC1=C(C(=CC(=C1)F)F)NS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C13H8F3NO4S
